US07579469B2
To a chilled (−78° C.) solution of 10 g of benzo[1,3]dioxole4-carbaldehyde in 200 mL of THF was added by addition funnel 43.7 mL of a 1.6M MeLi solution in diethyl ether. The reaction was slowly warmed to room temperature and stirred overnight. The reaction was monitored by TLC. The mixture was then cooled to −78° C. and quenched with saturated aqueous ammonium chloride and concentrated in vacuo. The residue was extracted with EtOAc. The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to give 11 g of 1-benzo[1,3]dioxol-4-ylethanol as a brown oil that crystallized upon standing.

reactant | benzo[1,3]dioxole4-carbaldehyde | 10 g | O1COC2=C1C=CC=C2C=O | C8H6O3
reactant | MeLi | 1.6M | [Li]C
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-benzo[1,3]dioxol-4-ylethanol | 11 g | O1COC2=C1C=CC=C2C(C)O | C9H10O3
